US07157463B2
Step A: (2-Bromo-benzyl)-carbamic acid tert-butyl ester
To a mixture of 125.0 g (561.8 mmol) of 2-bromobenzylamine hydrochloride and 170.7 g (1236.0 mmol) of potassium carbonate in 300 mL of 50% THF/water is added 134.9 g (618.0 mmol) of di-tert-butyl dicarbonate in four portions over 20 minutes. The mixture is stirred at r.t. for about 16 hours and then diluted with 300 mL of ethyl acetate and 300 mL of water. The organic portion is separated and the aqueous portion is extracted three times with 200 mL each of ethyl acetate. The combined ethyl acetate portions are washed once with 250 mL of 10% aqueous sodium bisulfate. The organic portion is dried (MgSO4), filtered and concentrated to dryness to afford about 161 g Step A compound.

reactant | 2-bromobenzylamine hydrochloride | 561.8 mmol, 125.0 g | Cl.BrC1=C(CN)C=CC=C1
reactant | potassium carbonate | 1236.0 mmol, 170.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | di-tert-butyl dicarbonate | 618.0 mmol, 134.9 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF water | 300 mL | C1CCOC1.O
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 300 mL | O | H2O
product | (2-Bromo-benzyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC1=C(C=CC=C1)Br)=O | C12H16BrNO2
